US04732998
Tetraethyl (4-aminophenoxymethylene)-bisphosphonate
A solution of tetraethyl (4-nitrophenoxymethylene)-bisphosphonate (11 g) in methanol (120 ml) in a nitrogen atmosphere was cooled in ice and treated with hydrazine hydrate (5.3 ml) and 10% palladium on carbon (2.4 g). Stirring was continued for 3 hours at room temperature, and the catalyst was removed by filtration. The filtrate was evaporated in vacuo, and the crude product was purified by column chromatography on silica gel to give a colourless oil.

reactant | tetraethyl (4-nitrophenoxymethylene)-bisphosphonate | 11 g | [N+](=O)([O-])C1=CC=C(OC(P(OCC)(OCC)=O)P(OCC)(OCC)=O)C=C1 | C15H25NO9P2
reactant | hydrazine hydrate | 5.3 ml | O.NN
solvent | methanol | 120 ml | CO | CH4O
catalyst | palladium on carbon | 2.4 g | [Pd] | Pd
product | Tetraethyl (4-aminophenoxymethylene)-bisphosphonate | NC1=CC=C(OC(P(OCC)(OCC)=O)P(OCC)(OCC)=O)C=C1 | C15H27NO7P2
